US08614209B2
5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester (0.60 g, 2.28 mmol) was suspended in formamide (10 mL) then sulfuric acid (1 mL) was added and the tube purged with nitrogen then sealed. The mixture was heated at 150° C. by microwave irradiation for 15 minutes. The resultant solution was diluted with HCl (1 N) and water and extracted with ethyl acetate (×3). The organic phase was dried over sodium sulfate and evaporated then purified by chromatography on a silica II cartridge, eluting with 1:1 DCM:cyclohexane to afford 5-oxazol-4-yl-thiophene-3-carboxylic acid methyl ester as a pale yellow solid (0.197 g). LCMS m/z 210.14 [M+H]+ R. T.=3.64 min (Analytical Method 9).

reactant | 5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester | 2.28 mmol, 0.60 g | COC(=O)C1=CSC(=C1)C(CBr)=O | C8H7BrO3S
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | formamide | 10 mL | C(=O)N | CH3NO
product | 5-oxazol-4-yl-thiophene-3-carboxylic acid methyl ester | 0.197 g | COC(=O)C1=CSC(=C1)C=1N=COC1 | C9H7NO3S
